US03997539
To a stirred slurry of 8.60 g (0.0334 mol) of 3-[1-hydroxy-2-(4aminopiperazin-1-yl)ethyl]indole in 50 ml. of chloroform is added 4.55 g (0.045 mol) of triethylamine. The mixture is cooled to 0° C. under a nitrogen atmosphere, and a solution of 5.64 g (0.040 mol) benzoyl chloride in 10 ml. of chloroform is introduced dropwise for 1 hour, while maintaining the reaction temperature of 0°-5° C. The resulting mixture is stirred at 0° C. for one hour, and at ambient temperature for another hour. The mixture is diluted with 150 ml. of chloroform and then 100 ml. of 10% sodium hydroxide. This mixture is stirred for 15 minutes and then filtered; the cake is washed well with water and dried to give a white solid. This product is recrystallized first from an ethanol and water mixture and then twice from DMF and water to give pure white crystals of 3-[1-hydroxy-2-(4-benzamidopiperazin-1-yl)ethyl]indole, m.p. 211°-213° C. dec. Analysis: Calculated for C21H24N4 02 : 69.21% C; 6.64% H; 15.37% N Found: 69.00% C; 6.60% H; 15.28% N.

reactant | 3-[1-hydroxy-2-(4aminopiperazin-1-yl)ethyl]indole | 0.0334 mol, 8.60 g | OC(CN1CCN(CC1)N)C1=CNC2=CC=CC=C12 | C14H20N4O
reactant | triethylamine | 0.045 mol, 4.55 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.040 mol, 5.64 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-[1-hydroxy-2-(4-benzamidopiperazin-1-yl)ethyl]indole | OC(CN1CCN(CC1)NC(C1=CC=CC=C1)=O)C1=CNC2=CC=CC=C12 | C21H24N4O2
